US08207177B2
Step c: N-[((1S,2S,4R)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-2-hydroxycyclopentyl)methyl]sulfamide (Compound I-56)
tert-Butyl(aminosulfonyl)[((1S,2S,4R)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-2-hydroxycyclopentyl)methyl]carbamate (345 mg, 0.000636 mol) was dissolved in 2:1 methylene chloride:trifluoroacetic acid (20 mL: 10 mL) and left to stand for 15 minutes at room temperature. The mixture was diluted with toluene (30 mL) and evaporated to dryness. The residue was then re-subjected to the same conditions and azeotroped with toluene after completion. The residue was purified by silica gel chromatography, eluting with 5 to 10% Methanol in dichloromethane, to yield the product, 135 mg (48%). 1H-NMR (400 MHz, MeOD) δ 8.16 (s, 1H), 7.19 (m, 5H), 6.62 (d, J=3.6 Hz, 1H), 5.85 (t, J=7.8 Hz, 1H) 5.43 (ddd, J=4.6 Hz, 8.5 Hz, 17.8 Hz, 1H), 4.46 (t, J=3.6 Hz, 1H), 3.15 (dd, J=7.1 Hz, 12.9 Hz, 1H), 3.05 (ddd, J=3.3 Hz, 8.7 Hz, 15.4 Hz, 1H), 2.91 (m, 1H), 2.63 (m, 1H), 2.33 (ddd, J=1.5 Hz, 8.0 Hz, 13.8 Hz, 1H), 2.20 (m, 2H), 2.02 (m, 2H). LC/MS: Rt=1.45 min, ES+ 443 (AA standard).

reactant | tert-Butyl(aminosulfonyl)[((1S,2S,4R)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-2-hydroxycyclopentyl)methyl]carbamate | 0.000636 mol, 345 mg | C(C)(C)(C)OC(N(C[C@H]1[C@H](C[C@@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)O)S(=O)(=O)N)=O | C26H34N6O5S
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | N-[((1S,2S,4R)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-2-hydroxycyclopentyl)methyl]sulfamide | [C@@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)N(C=C2)[C@H]2C[C@@H]([C@@H](C2)CNS(=O)(=O)N)O | C21H26N6O3S
